US04889953
1-O-[2-(2-Hydroxyethoxy)ethyl]-3-O-(3,7,11,15-tetramethylhexadecyl)glycerol
14.9 g (50 millimole) of 3,7,11,15-tetramethylhexadecanol, 18.5 g (200 millimole) of epichlorohydrin and 106 g (1 mole) of diethylene glycol were treated by following a procedure similar to that of Working Example 4, and purification by silica gel column chromatography (Merck Co., Art. 7734, 400 g, Eluant: hexane-ethyl acetate-acetone=3:1:1-2:1:1) was carried out, to give 15 g (65%) of the above-captioned compound.

reactant | 3,7,11,15-tetramethylhexadecanol | 50 millimole, 14.9 g | CC(CCO)CCCC(CCCC(CCCC(C)C)C)C | C20H42O
reactant | epichlorohydrin | 200 millimole, 18.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | diethylene glycol | 1 mole, 106 g | C(COCCO)O | C4H10O3
product | 1-O-[2-(2-Hydroxyethoxy)ethyl]-3-O-(3,7,11,15-tetramethylhexadecyl)glycerol | 15 g, 65% | OCCOCCOCC(O)COCCC(CCCC(CCCC(CCCC(C)C)C)C)C | C27H56O5
